US05606051
c) N-Methoxy-N-methyl-5-ethyl-1-methylpyrazole-3-carboxamide
5-Ethyl-1-methylpyrazole-3-carboxylic acid (2.5g) in dichloromethane (50 ml) was treated with DMF (0.12 ml) and cooled under argon in an ice-bath. The solution was treated with oxalyl chloride (2.2 g) in dichloromethane (25 ml) in a dropwise fashion. After complete addition the reaction mixture was maintained at 0° C. for 2.5 m. and then allowed to warm to room temperature. The solution was evaporated and the residue re-dissolved in toluene (100 ml) and concentrated again. The crude acid chloride was taken up in dichloromethane (50 ml), and treated with N,O-dimethylhydroxylamine hydrochloride (1.72 g), cooled in an ice-bath and pyridine (2.86 ml) added. The reaction mixture was allowed to stir at room temperature for 2 h. The reaction mixture was washed with brine, dried over anhydrous magnesium sulphate and concentrated to an oil. The product was purified by `flash` silica gel chromatography to give the title compound as a yellow oil, (2.995 g, 94%); (Found: M+, 197.1167. C9H15N3O2 requires M, 197.1164); nmax (CH2Cl2) 1640, 1484 and 1374 cm-1 ; dH (CDCl3) 1.28 (3H, t, f7.SHz), 2.62 (2H, q, J7.5 Hz), 3.43 (3H, s), 3.76 (3H, s), 3.83 (3H, s) and 6.72 (1H, s).

reactant | 5-Ethyl-1-methylpyrazole-3-carboxylic acid | 2.5g | C(C)C1=CC(=NN1C)C(=O)O | C7H10N2O2
reactant | DMF | 0.12 ml | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 2.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | N-Methoxy-N-methyl-5-ethyl-1-methylpyrazole-3-carboxamide | 2.995 g, 94% | CON(C(=O)C1=NN(C(=C1)CC)C)C | C9H15N3O2
